* C:\Users\colen\Desktop\3102\filter simulation.asc
L1 N001 N002 94µ Rser=2.22
C1 N002 0 .68µ Rser=0.02
R3 N002 0 8
V1 N001 0 AC 1
.ac dec 10 100 500000
.backanno
.end
